### PR TITLE
Return of PR #226: adds relevant theorems when fcycle f (orbit f x) and the needed lemmas

### PR DESCRIPTION
**Pull request by CohenCyril**
PR #226 was accidentally closed. I am recreating it.
Followup needed by @ybertot 

- [x] think more carefully about the names of the theorems
- [x] find more meaningful names for sections
- ~add Hint Resolve outside of sections~
- [x] add documentation for `orbitPcycle`
- [x] add ChangeLog
- [x]  cut this PR into bits? (e.g. TFAE fix gets its own PR?)
- fixes #439

### CODE REVIEW

**Comment by CohenCyril** [comment]
@ybertot do you plan to work on it in the coming weeks?

**Comment by ybertot** [comment]
I won't be able to work on this in the next two weeks.

**Comment by CohenCyril** [comment]
I will address this.

**Comment by amahboubi** [comment]
This PR has stalled for long... @ybertot @CohenCyril  what is the status of this one? We need an assignee here. @thery ? @LaurenceRideau ?

**Comment by CohenCyril** [comment]
@amahboubi I will get this PR ready ASAP, there is not much to do. The main part missing is the changelog.

**Comment by amahboubi** [comment]
Thanks @CohenCyril . When do you think you will work on this?

**Comment by CohenCyril** [comment]
Before Thursday Oct 31st

**Comment by amahboubi** [comment]
@CohenCyril what is your updated deadline for this PR?

**Comment by CohenCyril** [comment]
Sorry about that, my updated deadline is November 15th.

**Comment by amahboubi** [comment]
Tomorrow?

**Comment by CohenCyril** [comment]
> Tomorrow?

yes

**Comment by CohenCyril** [comment]
update, I cannot do it for today :disappointed: 
New estimate:  November 19.

**Comment by CohenCyril** [comment]
@amahboubi ready for re-reviewing.

File: mathcomp/ssreflect/fingraph.v [hunk 1]
```diff
@@ -425,56 +431,41 @@ Qed.
...
-Proof. by rewrite -(card_uniqP Up); apply (eq_card fconnect_cycle). Qed.
-
-Lemma orbit_rot_cycle : {i : nat | orbit x = rot i p}.
+Lemma image_orbit x : {subset image f (orbit x) <= orbit x}.
 Proof.
-have [i q def_p] := rot_to p_x; exists i.
-rewrite /orbit order_cycle -(size_rot i) def_p.
-suffices /fpathP[j ->]: fpath f x q by rewrite /= size_traject.
-by move: f_p; rewrite -(rot_cycle i) def_p (cycle_path x); case/andP.
+by move=> _ /mapP[y yin ->]; apply: orbit_stable; rewrite ?mem_enum in yin.
```
Comment (pi8027) [inline mathcomp/ssreflect/fingraph.v]: This script is broken. I think `orbit_stable` has been renamed to `orbit_homo`.

Comment (CohenCyril) [reply mathcomp/ssreflect/fingraph.v]: Thanks!

File: mathcomp/ssreflect/fingraph.v [hunk 2]
```diff
@@ -605,9 +599,174 @@ Proof. by apply: same_connect1 => /=. Qed.
...
+(* `orbitPcycle 0 2 : fcycle f (orbit x) <-> exists k, iter k.+1 f x = x`.   *)
+(* examples of this are in order_id_cycle and fconnnect_f.                   *)
+(* One may also use lemma all_iffLR to get a one sided impliciation, as in   *)
+(* orderPcycle.                                                              *)
+(*****************************************************************************)
+Lemma orbitPcycle {x} : [<->
+  (* 0 *) fcycle f (orbit x) : Prop;
+  (* 1 *) fconnect f (f x) x : Prop;
+  (* 2 *) exists k, iter k.+1 f x = x;
+  (* 3 *) iter (order x) f x = x].
```
Comment (pi8027) [inline mathcomp/ssreflect/fingraph.v]: Can't we avoid these `: Prop` by redefining the `[<-> ...]` notation? e.g.:
```coq
Notation "[ '<->' P0 ; P1 ; .. ; Pn ]" :=
  (all_iff P0 (@cons Prop P1 (.. (@cons Prop Pn nil) ..)))
  (at level 0, format "[ '<->' '['  P0 ;  '/' P1 ;  '/'  .. ;  '/'  Pn ']' ]")
  : form_scope.
```

File: mathcomp/ssreflect/fingraph.v [hunk 3]
```diff
@@ -395,6 +395,12 @@ apply/idP/idP=> [/connectP[_ /fpathP[m ->] ->] | /trajectP[i _ ->]].
 exact: fconnect_iter.
 Qed.
 
+Lemma mem_orbit x : x \in orbit x. Proof. by rewrite -fconnect_orbit. Qed.
+Hint Resolve mem_orbit.
+
+Lemma order_gt0 x : order x > 0. Proof. by rewrite -orderSpred. Qed.
+Hint Resolve order_gt0.
```
Comment (pi8027) [inline mathcomp/ssreflect/fingraph.v]: `: core`.

File: mathcomp/ssreflect/fingraph.v [hunk 4]
```diff
@@ -605,9 +599,174 @@ Proof. by apply: same_connect1 => /=. Qed.
 Lemma same_fconnect1_r x y : fconnect f x y = fconnect f x (f y).
 Proof. by apply: same_connect1r x => /=. Qed.
 
+End orbit_inj.
+Hint Resolve orbit_uniq.
```
Comment (pi8027) [inline mathcomp/ssreflect/fingraph.v]: `: core`.

File: mathcomp/ssreflect/fingraph.v [hunk 5]
```diff
@@ -605,9 +599,174 @@ Proof. by apply: same_connect1 => /=. Qed.
...
+Proof. by apply/eqP; rewrite eq_sym; apply: (@next_cycle _ (frel _)). Qed.
+
+End mem_cycle.
+
+Lemma inj_cycle : {in p &, injective f}.
+Proof.
+move=> x y xp yp; rewrite -!nextEcycle//.
+by move=> /(congr1 (prev p)); rewrite !prev_next.
+Qed.
+Hint Resolve inj_cycle.
```
Comment (pi8027) [inline mathcomp/ssreflect/fingraph.v]: `: core`.

File: mathcomp/ssreflect/fingraph.v [hunk 6]
```diff
@@ -605,9 +599,174 @@ Proof. by apply: same_connect1 => /=. Qed.
...
+
+Lemma homo_cycle : {homo f : x / x \in p}.
+Proof. by move=> x xp; rewrite -nextEcycle// mem_next. Qed.
+Hint Resolve homo_cycle.
```
Comment (pi8027) [inline mathcomp/ssreflect/fingraph.v]: `: core`.

File: mathcomp/ssreflect/fingraph.v [hunk 7]
```diff
@@ -605,9 +599,174 @@ Proof. by apply: same_connect1 => /=. Qed.
...
+rewrite /findex fconnect_orbit /orbit -orderSpred /= inE => /orP [-> //|].
+rewrite eq_sym; move=> yin /negPf->; have [_ eq_o|_ ->//] := orderPcycle x.
+by rewrite -(orderSpred (f x)) trajectSr -cats1 index_cat -eq_o yin.
+Qed.
+
+End fconnect.
+
 End Orbit.
 
+Hint Resolve mem_orbit order_gt0 orbit_uniq.
```
Comment (pi8027) [inline mathcomp/ssreflect/fingraph.v]: `: core`.

File: mathcomp/ssreflect/fingraph.v [hunk 8]
```diff
@@ -605,9 +599,174 @@ Proof. by apply: same_connect1 => /=. Qed.
...
+set i := index _ _; rewrite /orbit order_cycle -(size_rot i) rot_index// -/i.
+set q := _ ++ _; suffices /fpathP[j ->]: fpath f x q by rewrite /= size_traject.
+by move: f_p; rewrite -(rot_cycle i) rot_index// (cycle_path x); case/andP.
+Qed.
+
+Lemma orbit_rot_cycle : {i : nat | orbit x = rot i p}.
+Proof. by rewrite orbitE; exists (index x p). Qed.
+
+Lemma nextEcycle : next p x = f x.
+Proof. by apply/eqP; rewrite eq_sym; apply: (@next_cycle _ (frel _)). Qed.
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/fingraph.v]: I simplified the name to `nextE` in the end.

File: mathcomp/ssreflect/fingraph.v (hunk 2 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/fingraph.v]: Thanks

File: mathcomp/ssreflect/fingraph.v [hunk 9]
```diff
@@ -605,9 +596,178 @@ Proof. by apply: same_connect1 => /=. Qed.
...
+Hint Resolve orbit_uniq : core.
+
+Section orbit_cycle.
+Variables (p : seq T) (f_p : fcycle f p) (Up : uniq p).
+
+Section mem_cycle.
+Variable x : T.
+Hypothesis p_x : x \in p.
+
+(* Lemma fconnect_cycle, nextE and prevE do not depend on Up : uniq p *)
```
Comment (pi8027) [inline mathcomp/ssreflect/fingraph.v]: Currently, `prevE` does depend on `Up : uniq p`.
```
prevE
     : forall p : seq T, fcycle f p -> uniq p -> forall x : T, x \in p -> prev p x = finv x
```
If `prevE` shouldn't use `Up`, `f_finv_cycle` probably shouldn't depend on `Up` too because the proof of `prevE` uses `f_finv_cycle`. (I didn't check whether it's possible to drop this hypothesis or not.)
```
f_finv_cycle
     : forall (T : finType) (f : T -> T) (p : seq T),
       fcycle f p -> uniq p -> {in p, cancel (finv f) f}
```
Furthermore, it's better to split the `orbit_cycle` section into two sections to do not introduce unexpected uses of `Up`.

Comment (CohenCyril) [reply mathcomp/ssreflect/fingraph.v]: @pi8027 it is not obvious that `prevE` and `f_finv_cycle` do not depend on `Up`. I believe there is an alternative proof of this fact, which I may develop in the coming days, using the conjecture that `fcycle f p -> fcycle f (undup p)`.
Meanwhile we may merge the PR with extra assumptions and remove assumptions later on, shouldn't we?

**Comment by amahboubi** [comment]
This PR is a milestone for Dec. 1st. There are indeed two options:
1) merge as is, be part of the release, and open an issue to fix @pi8027 's remark
2) delay the merge after the release.

@pi8027 do you agree with 1)?

**Comment by pi8027** [comment]
@amahboubi @CohenCyril I agree with option 1.

File: mathcomp/ssreflect/fingraph.v [hunk 10]
```diff
@@ -605,9 +596,178 @@ Proof. by apply: same_connect1 => /=. Qed.
...
+
+Lemma inj_cycle : {in p &, injective f}.
+Proof.
+by move=> x y xp yp /(congr1 (prev p)); rewrite -!nextE ?prev_next.
+Qed.
+Hint Resolve inj_cycle : core.
+
+Lemma homo_cycle : {homo f : x / x \in p}.
+Proof. by move=> x xp; rewrite -nextE// mem_next. Qed.
+Hint Resolve homo_cycle : core.
```
Comment (pi8027) [inline mathcomp/ssreflect/fingraph.v]: `inj_cycle` and `homo_cycle` do not use the finiteness of `T`.

Comment (CohenCyril) [reply mathcomp/ssreflect/fingraph.v]: Thanks! And I also managed to get rid of `uniq p` hypothesis in `inj_cycle`.

File: mathcomp/ssreflect/fingraph.v (hunk 9 above)
Comment (pi8027) [reply mathcomp/ssreflect/fingraph.v]: Since I found a way to replace the hypothesis `uniq p` of `prev_next` with `fcycle f p`, I can address this. But I'm not sure it's a good idea to generalize `prev_next` (and `next_prev`) like this.

File: mathcomp/ssreflect/fingraph.v (hunk 10 above)
Comment (pi8027) [reply mathcomp/ssreflect/fingraph.v]: Oh really! We probably duplicated this generalization effort. 😂

Comment (CohenCyril) [reply mathcomp/ssreflect/fingraph.v]: And I am almost there for `fcycle f (undup p)` and many other generalizations...

File: mathcomp/ssreflect/fingraph.v (hunk 9 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/fingraph.v]: I do not think so...

**Comment by amahboubi** [comment]
This is great, but please keep in mind that the next milestone is due Dec. 1st.

File: mathcomp/ssreflect/fingraph.v (hunk 10 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/fingraph.v]: done

File: mathcomp/ssreflect/fingraph.v [hunk 11]
```diff
@@ -605,9 +596,178 @@ Proof. by apply: same_connect1 => /=. Qed.
...
+have [i q def_p] := rot_to p_x; rewrite -(mem_rot i p) def_p.
+have{i def_p} /andP[/eqP q_x f_q]: (f (last x q) == x) && fpath f x q.
+  by have:= f_p; rewrite -(rot_cycle i) def_p (cycle_path x).
+apply/idP/idP=> [/connectP[_ /fpathP[j ->] ->] | ]; last exact: path_connect.
+case/fpathP: f_q q_x => n ->; rewrite !last_traject -iterS => def_x.
+by apply: (@loopingP _ f x n.+1); rewrite /looping def_x /= mem_head.
+Qed.
+
+Lemma nextE : next p x = f x.
+Proof. exact/esym/eqP/(next_cycle f_p). Qed.
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/fingraph.v]: done

File: mathcomp/ssreflect/fingraph.v (hunk 9 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/fingraph.v]: I believe I generalized all possible lemmas that occur in this PR...

**Comment by CohenCyril** [comment]
@pi8027 @amahboubi I did the generalizations that arose from @pi8027 comments.

File: mathcomp/ssreflect/fingraph.v [hunk 12]
```diff
@@ -605,9 +603,236 @@ Proof. by apply: same_connect1 => /=. Qed.
...
+Let f_inj := inj_cycle f_p.
+Let homo_f := mem_fcycle f_p.
+
+Lemma in_orbit_cycle : {in p &, forall x, orbit x =i p}.
+Proof.
+by move=> x y xp yp; rewrite (orbitE fcycle_undup)// ?mem_rot ?mem_undup.
+Qed.
+
+Lemma fconnect2cycle : {in p &, forall x y, fconnect f x y}.
+Proof. by move=> x y xp yp; rewrite !(fconnect_cycle f_p). Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/fingraph.v]: This lemma can be generalized for `cycle` and `connect`:
```coq
(* after `Lemma path_connect` *)
Lemma connect2cycle p : cycle e p -> {in p &, forall x y, connect x y}.
Proof.
move=> e_p x y p_x p_y; case/splitPr: p_x p_y e_p => {p} p1 p2.
by rewrite mem_cat inE => /or3P [|/eqP -> //|] /splitPr [] ? ?;
  rewrite cycle_catC /= => /path_connect; apply;
  rewrite !(inE, mem_rcons, mem_cat) eqxx /= !orbT.
Qed.
```
where `cycle_catC` is:
```coq
cycle_catC
     : forall (T : Type) (e : rel T) (p1 p2 : seq T), cycle e (p1 ++ p2) = cycle e (p2 ++ p1)
```

File: mathcomp/ssreflect/fingraph.v [hunk 13]
```diff
@@ -605,9 +603,236 @@ Proof. by apply: same_connect1 => /=. Qed.
...
+
+Lemma eq_order_cycle : {in p &, forall x y, order y = order x}.
+Proof.
+by move=> x y xp yp; rewrite !(order_cycle fcycle_undup) ?mem_undup.
+Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/fingraph.v]: This lemma also seems to be possible to generalize by generalizing `order` to non-`frel` graphs (it means the number of reachable elements). But I think this is good enough to merge as it is.

File: CHANGELOG_UNRELEASED.md [hunk 14]
```diff
@@ -69,6 +70,11 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
   `homo_sorted`, `mono_sorted`, `map_merge`, `merge_map`, `map_sort`,
   `sort_map`, `sorted_map`, `homo_sorted_in`, `mono_sorted_in`.
 
+- Added theorems `take_traject` and `trajectD` in `path.v`
+
+- Extracting lemma `pathE` from `pathP`, and shortening the proof of
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply CHANGELOG_UNRELEASED.md]: done

File: CHANGELOG_UNRELEASED.md [hunk 15]
```diff
@@ -69,6 +70,11 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
   `homo_sorted`, `mono_sorted`, `map_merge`, `merge_map`, `map_sort`,
   `sort_map`, `sorted_map`, `homo_sorted_in`, `mono_sorted_in`.
 
+- Added theorems `take_traject` and `trajectD` in `path.v`
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply CHANGELOG_UNRELEASED.md]: done

File: mathcomp/ssreflect/path.v [hunk 16]
```diff
@@ -1010,6 +1010,16 @@ rewrite trajectSr nth_rcons size_traject.
 by case: ltngtP le_i_n => [? _||->] //; apply: IHn.
 Qed.
 
+Lemma trajectD m n x :
+  traject x (m + n) = traject x m ++ traject (iter m f x) n.
+Proof.
+elim: m => // m IHm in n *; rewrite addSnnS IHm.
+by rewrite [in LHS]trajectS [in RHS]trajectSr cat_rcons.
+Qed.
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/path.v]: thanks

File: mathcomp/ssreflect/seq.v [hunk 17]
```diff
@@ -1275,6 +1285,31 @@ Qed.
...
+
+Lemma undup_cat s t :
+  undup (s ++ t) = [seq x <- undup s | x \notin t] ++ undup t.
+Proof.
+elim: t => [|/= x t IHt] in s *; first by rewrite !cats0 filter_predT.
+rewrite -cat_rcons IHt undup_rcons filter_rcons -filter_predI.
+have [/=xt|/=xNt] := boolP (x \in t); rewrite -?cat_rcons; congr cat.
+  by apply: eq_filter => y/=; rewrite inE negb_or andbC.
+by congr rcons; apply: eq_filter => y/=; rewrite inE negb_or andbC.
+Qed.
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v]: thanks

File: mathcomp/ssreflect/fingraph.v [hunk 18]
```diff
@@ -605,9 +603,236 @@ Proof. by apply: same_connect1 => /=. Qed.
 Lemma same_fconnect1_r x y : fconnect f x y = fconnect f x (f y).
 Proof. by apply: same_connect1r x => /=. Qed.
 
+End orbit_inj.
+Hint Resolve orbit_uniq : core.
+
+Section orbit_cycle.
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/fingraph.v]: done

File: mathcomp/ssreflect/fingraph.v [hunk 19]
```diff
@@ -605,9 +603,236 @@ Proof. by apply: same_connect1 => /=. Qed.
...
+
+Lemma iter_finv_cycle n :
+  {in p, forall x, n <= order x -> iter n finv x = iter (order x - n) f x}.
+Proof. exact: iter_finv_in. Qed.
+
+Lemma cycle_orbit_cycle : {in p, forall x, (fcycle f) (orbit x)}.
+Proof. exact: cycle_orbit_in. Qed.
+
+Lemma fpath_finv_cycle q x : (x \in p) && (fpath finv x q) =
+  (last x q \in p) && (fpath f (last x q) (rev (belast x q))).
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/fingraph.v]: done

File: mathcomp/ssreflect/seq.v [hunk 20]
```diff
@@ -1275,6 +1285,31 @@ Qed.
...
+
+Lemma undup_iter_cat n (s : seq T) : 0 < n -> undup (iter n (cat s) [::]) = undup s.
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v]: I agree.

File: mathcomp/ssreflect/fingraph.v (hunk 12 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/fingraph.v]: Let's open an issue to do that later on?

File: mathcomp/ssreflect/fingraph.v (hunk 13 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/fingraph.v]: Let's open an issue to do that later on?

File: mathcomp/ssreflect/fingraph.v (hunk 12 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/fingraph.v]: ok I did it, but without `cycle_catC`

Comment (CohenCyril) [reply mathcomp/ssreflect/fingraph.v]: But I still added it

**Comment by CohenCyril** [comment]
@amahboubi @pi8027 comments taken into account except for https://github.com/math-comp/math-comp/pull/261#discussion_r351115595 fand squashed my commits (cannot squash further without losing ownership)

**Comment by amahboubi** [comment]
@pi8027 can you open an issue for the remaining comment not addressed by the PR? I will then do the merge.

**Comment by CohenCyril** [comment]
I am a bit puzzled by the absence of CI on my latest force pushes...

**Comment by pi8027** [comment]
@amahboubi @CohenCyril I opened a dedicated issue #442 for the remaining comment.

**Comment by CohenCyril** [comment]
gitlab CI is down... https://status.gitlab.com/

File: mathcomp/ssreflect/seq.v [hunk 21]
```diff
@@ -1275,6 +1285,15 @@ Qed.
 Lemma undup_nil s : undup s = [::] -> s = [::].
 Proof. by case: s => //= x s; rewrite -mem_undup; case: ifP; case: undup. Qed.
 
+Lemma undup_cat s t :
+  undup (s ++ t) = [seq x <- undup s | x \notin t] ++ undup t.
+Proof. by elim: s => //= x s ->; rewrite mem_cat; do !case: in_mem => /=. Qed.
```
Comment (pi8027) [inline mathcomp/ssreflect/seq.v]: Actually this `do !` seems to repeat infinitely in Coq 8.10 and master. Here is a fix:
```coq
Proof. by elim: s => //= x s ->; rewrite mem_cat; do 2 case: in_mem => //=. Qed.
```

Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v]: AAah great!

**Comment by ybertot** [comment]
@amahboubi, @CohenCyril, @pi8027 thank you all for the great work.  Should I understand that the PR is now ready for merge.  I wish to prepare the release today.

**Comment by pi8027** [comment]
@ybertot IMO, this is good enough to merge as it is. However, since I contributed the second commit of this PR, I am probably not in a position to approve this PR.
